### PR TITLE
[Merged by Bors] - feat(Geometry/Convex): affine maps into a module form a module

### PR DESCRIPTION
**Pull request by YaelDillies**
... under pointwise operations.

From the Polyhedra in Berlin workshop, where participants requested this to talk about the dual space of a convex space.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Convex/AffineMap/Module.lean [hunk 1]
```diff
@@ -0,0 +1,134 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Yaël Dillies
+-/
+module
+
+public import Mathlib.Geometry.Convex.AffineMap.Defs
+public import Mathlib.Geometry.Convex.ConvexSpace.Module
+
+/-!
+# The module of affine maps into a module
```
Comment (eric-wieser) [inline Mathlib/Geometry/Convex/AffineMap/Module.lean]:
```suggestion
# The module of convex affine maps into a module
```
otherwise this seems ambiguous with `AffineMap`?

File: Mathlib/Geometry/Convex/AffineMap/Module.lean [hunk 2]
```diff
@@ -0,0 +1,134 @@
...
+
+/-! ### Compatibility with the pointwise convex space structure -/
+
+section CommSemiring
+variable {R : Type*} [CommSemiring R] [PartialOrder R] [IsStrictOrderedRing R] [ConvexSpace R X]
+  [AddCommMonoid M] [Module R M] [ConvexSpace R M] [IsModuleConvexSpace R M]
+
+instance ConvexSpace.AffineMap.instIsModuleConvexSpace :
+    IsModuleConvexSpace R (ConvexSpace.AffineMap R X M) where
+  sConvexComb_eq_sum w := by ext x; simp [Finsupp.sum]
```
Comment (eric-wieser) [inline Mathlib/Geometry/Convex/AffineMap/Module.lean:107]: I guess the two-ring version isn't true?

File: Mathlib/Geometry/Convex/AffineMap/Module.lean [hunk 3]
```diff
@@ -0,0 +1,134 @@
...
+@[simp, norm_cast]
+lemma coe_add (f g : ConvexSpace.AffineMap R X M) : ⇑(f + g) = ⇑f + ⇑g := rfl
+
+@[simp]
+lemma add_apply (f g : ConvexSpace.AffineMap R X M) (x : X) : (f + g) x = f x + g x := rfl
+
+section SMul
+variable [Monoid S] [DistribMulAction S M] [SMulCommClass R S M]
+
+instance : SMul S (ConvexSpace.AffineMap R X M) where smul s f := ⟨s • f, by fun_prop⟩
```
Comment (eric-wieser) [inline Mathlib/Geometry/Convex/AffineMap/Module.lean:49]: Can you add the `IsScalarTower`/`SMulCommClass`/`IsCentralScalar` instances?

File: Mathlib/Geometry/Convex/AffineMap/Module.lean [hunk 4]
```diff
@@ -0,0 +1,134 @@
...
+/-- The coercion of a bundled affine map to a function, as an additive monoid hom. -/
+@[expose, simps]
+def coeAddMonoidHom : ConvexSpace.AffineMap R X M →+ (X → M) where
+  toFun f := f
+  map_zero' := coe_zero
+  map_add' := coe_add
+
+@[simp, norm_cast]
+lemma coe_sum {ι : Type*} (s : Finset ι) (f : ι → ConvexSpace.AffineMap R X M) :
+    ⇑(∑ i ∈ s, f i) = ∑ i ∈ s, ⇑(f i) := map_sum (coeAddMonoidHom R X M) ..
```
Comment (eric-wieser) [inline Mathlib/Geometry/Convex/AffineMap/Module.lean]: Do we normally mark this `simp`?

Comment (YaelDillies) [reply Mathlib/Geometry/Convex/AffineMap/Module.lean]: Yes IME. What did you expect?

File: Mathlib/Geometry/Convex/AffineMap/Module.lean [hunk 5]
```diff
@@ -0,0 +1,134 @@
...
+variable [AddCommMonoid M] [Module R M] [ConvexSpace R M] [IsModuleConvexSpace R M]
+
+instance : Zero (ConvexSpace.AffineMap R X M) := ⟨.const 0⟩
+
+omit [Module R M] [IsModuleConvexSpace R M] in
+@[simp, norm_cast]
+lemma coe_zero : ⇑(0 : ConvexSpace.AffineMap R X M) = 0 := rfl
+
+omit [Module R M] [IsModuleConvexSpace R M] in
+@[simp] lemma zero_apply (x : X) : (0 : ConvexSpace.AffineMap R X M) x = 0 := rfl
```
Comment (gasparattila) [inline Mathlib/Geometry/Convex/AffineMap/Module.lean]: This should be an `IsZeroApply` instance, and similarly for the other `*_apply` lemmas. This way, `coe_*` lemmas could be removed, as they would be special cases of `FunLike.coe_*`. This is the case even for `coe_sum` and `sum_apply`.

Comment (YaelDillies) [reply Mathlib/Geometry/Convex/AffineMap/Module.lean]: I am not convinced. cf https://leanprover.zulipchat.com/#narrow/channel/144837-PR-reviews/topic/.60IsApply.60.20typeclasses/with/622836674

File: Mathlib/Geometry/Convex/AffineMap/Defs.lean [hunk 6]
```diff
@@ -0,0 +1,74 @@
...
+  (assoc := fun W ↦ by ext; simp [iConvexComb_assoc])
+
+@[simp]
+lemma sConvexComb_apply (w : StdSimplex S (ConvexSpace.AffineMap R X Y)) (x : X) :
+    w.sConvexComb x = w.iConvexComb (· x) := rfl
+
+/-- Evaluation at a point is affine in the affine map. -/
+@[fun_prop]
+lemma isAffineMap_apply (x : X) : IsAffineMap S fun f : ConvexSpace.AffineMap R X Y ↦ f x where
+  map_sConvexComb _ := sConvexComb_apply ..
```
Comment (eric-wieser) [inline Mathlib/Geometry/Convex/AffineMap/Defs.lean:50]: Should this be `eval` instead of `apply`?

File: Mathlib/Geometry/Convex/AffineMap/Defs.lean [hunk 7]
```diff
@@ -0,0 +1,74 @@
...
+lemma iConvexComb_apply (w : StdSimplex S I) (f : I → ConvexSpace.AffineMap R X Y) (x : X) :
+    w.iConvexComb f x = w.iConvexComb fun i ↦ f i x := (isAffineMap_apply x).map_iConvexComb ..
+
+@[simp]
+lemma convexCombPair_apply (a b : S) (ha hb hab) (f g : ConvexSpace.AffineMap R X Y) (x : X) :
+    convexCombPair a b ha hb hab f g x = convexCombPair a b ha hb hab (f x) (g x) :=
+  (isAffineMap_apply x).map_convexCombPair ..
+
+@[fun_prop]
+lemma isAffineMap_const_comp [IsConvexCombComm S R Z] (g : ConvexSpace.AffineMap R Y Z)
```
Comment (eric-wieser) [inline Mathlib/Geometry/Convex/AffineMap/Defs.lean:62]: Or should this be `comp_left`/`comp_right` or `pre_comp`/`post_comp`? I would guess we have some precedent here eg for continuity.

File: Mathlib/Geometry/Convex/AffineMap/Module.lean [hunk 8]
```diff
@@ -0,0 +1,110 @@
...
+end SMul
+
+instance instAddCommMonoid : AddCommMonoid (ConvexSpace.AffineMap R X M) :=
+  fast_instance% FunLike.addCommMonoid
+
+instance [Monoid S] [DistribMulAction S M] [SMulCommClass S R M] :
+    DistribMulAction S (ConvexSpace.AffineMap R X M) := fast_instance% FunLike.distribMulAction
+
+instance instModule [Semiring S] [Module S M] [SMulCommClass S R M] :
+    Module S (ConvexSpace.AffineMap R X M) := fast_instance% FunLike.module
```
Comment (eric-wieser) [inline Mathlib/Geometry/Convex/AffineMap/Module.lean]: Any reason for naming some but not all of these?

File: Mathlib/Geometry/Convex/ConvexSpace/AffineMap.lean [hunk 9]
```diff
@@ -30,70 +30,50 @@ protected structure AffineMap
...
-    (f : ConvexSpace.AffineMap R X Y) :
-    IsAffineMap R f :=
-  f.isAffineMap_toFun
+lemma isAffineMap (f : ConvexSpace.AffineMap R X Y) : IsAffineMap R f := f.isAffineMap_toFun
 
 /-- The identity map, as a bundled affine map of convex spaces. -/
 @[simps, implicit_reducible]
-def id (X : Type*) [ConvexSpace R X] :
-    ConvexSpace.AffineMap R X X where
+def id : ConvexSpace.AffineMap R X X where
```
Comment (eric-wieser) [inline Mathlib/Geometry/Convex/ConvexSpace/AffineMap.lean:54]: `variable (X) in`

Comment (eric-wieser) [reply Mathlib/Geometry/Convex/ConvexSpace/AffineMap.lean:54]: (making this explicit seems out of scope for this PR, and mathlib is pretty inconsistent; let's not add churn here)

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean [hunk 10]
```diff
@@ -573,26 +575,63 @@ lemma iConvexComb_assoc {J : Type*} (s : StdSimplex R I) (f : I → StdSimplex R
...
 
-variable {R X I J : Type*} [PartialOrder R] [CommSemiring R] [IsStrictOrderedRing R]
-  [ConvexSpace R X] in
-lemma iConvexComb_comm (f : StdSimplex R I) (g : StdSimplex R J)
+section IsConvexCombComm
+variable {R S X I J : Type*} [PartialOrder R] [Semiring R] [IsStrictOrderedRing R] [PartialOrder S]
+  [Semiring S] [IsStrictOrderedRing S] [ConvexSpace R X] [ConvexSpace S X]
+
+variable (R S X) in
+/-- Typeclass for the `R`-convex space and `S`-convex space structures on `X` to commute, namely for
```
Comment (eric-wieser) [inline Mathlib/Geometry/Convex/ConvexSpace/Defs.lean]:
```suggestion
/-- `IsConvexCombComm R S X` indicates that the `R`-convex and `S`-convex space structures on `X` commute, namely for
```

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean [hunk 11]
```diff
@@ -573,26 +575,63 @@ lemma iConvexComb_assoc {J : Type*} (s : StdSimplex R I) (f : I → StdSimplex R
...
+`R`-convex combinations to be `S`-affine.
+
+This is the convex space analogue of `SMulCommClass`.
+
+The condition is stated for families indexed by `Fin n`, so that the class does not depend on an
+extra universe parameter. See `Convexity.iConvexComb_comm` for the general statement. -/
```
Comment (eric-wieser) [inline Mathlib/Geometry/Convex/ConvexSpace/Defs.lean]: This belongs on the field not the typeclass. Someone assuming this in a typeclass does not care about this at all.

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean [hunk 12]
```diff
@@ -573,26 +575,63 @@ lemma iConvexComb_assoc {J : Type*} (s : StdSimplex R I) (f : I → StdSimplex R
...
+
+This is not an instance as it would cause loops. -/
+protected lemma IsConvexCombComm.symm [IsConvexCombComm R S X] : IsConvexCombComm S R X where
+  iConvexComb_comm' f g := (iConvexComb_comm g f fun i e ↦ e i).symm
+
+end IsConvexCombComm
+
+variable {R X I J : Type*} [PartialOrder R] [CommSemiring R] [IsStrictOrderedRing R]
+  [ConvexSpace R X] in
+instance IsConvexCombComm.instSelf : IsConvexCombComm R R X where
```
Comment (eric-wieser) [inline Mathlib/Geometry/Convex/ConvexSpace/Defs.lean:620]:
```suggestion
/-- When `R` is commutative, so are its convex combinations. -/
variable {R X I J : Type*} [PartialOrder R] [CommSemiring R] [IsStrictOrderedRing R]
  [ConvexSpace R X] in
instance IsConvexCombComm.instSelf : IsConvexCombComm R R X where
```

File: Mathlib/Geometry/Convex/ConvexSpace/Module.lean [hunk 13]
```diff
@@ -142,17 +144,60 @@ instance {ι : Type*} {M : ι → Type*} [∀ i, AddCommMonoid (M i)] [∀ i, Mo
...
 end IsModuleConvexSpace
 
+section IsConvexCombComm
+variable {S : Type*} [Semiring S] [PartialOrder S] [IsStrictOrderedRing S] [Module S M]
+  [ConvexSpace R M] [IsModuleConvexSpace R M] [ConvexSpace S M] [IsModuleConvexSpace S M]
+  [SMulCommClass R S M]
+
+/-- The convex space structures over `R` and over `S` on a module commute as soon as the `R` and `S`
+actions do. -/
+instance IsConvexCombComm.of_module : IsConvexCombComm R S M where
```
Comment (eric-wieser) [inline Mathlib/Geometry/Convex/ConvexSpace/Module.lean]: what do you think of
```suggestion
instance SMulCommClass.toIsConvexCombComm : IsConvexCombComm R S M where
```

File: Mathlib/Geometry/Convex/ConvexSpace/Module.lean [hunk 14]
```diff
@@ -164,13 +209,25 @@ variable [AddCommGroup M] [Module R M] [AddCommGroup N] [Module R N]
...
+  .linearMap (LinearMap.fst R N N - .snd R N N)
+
+section ConvexSpaceDomain
+variable {X : Type*} [ConvexSpace R X] {f g : X → N}
+
 @[to_fun (attr := fun_prop)]
-lemma IsAffineMap.neg (hf : IsAffineMap R f) : IsAffineMap R (-f) where
-  map_sConvexComb w := by simp [hf.map_sum_weights, Finsupp.sum_mapDomain_index, add_smul]
+protected lemma IsAffineMap.neg (hf : IsAffineMap R f) : IsAffineMap R (-f) :=
+  isAffineMap_neg.comp hf
```
Comment (eric-wieser) [inline Mathlib/Geometry/Convex/ConvexSpace/Module.lean:224]: Do we want the `iff` version as simp? Fine to declare out of scope.

File: Mathlib/Geometry/Convex/ConvexSpace/Prod.lean [hunk 15]
```diff
@@ -118,4 +130,64 @@ lemma convexCombPair_apply (a b : R) (ha hb hab) (f g : ι →₀ X) (i : ι) :
...
+    IsAffineMap R fun x ↦ (f x).1 := Prod.isAffineMap_fst.comp hf
+
+@[fun_prop]
+protected lemma IsAffineMap.snd {f : X → Y × Z} (hf : IsAffineMap R f) :
+    IsAffineMap R fun x ↦ (f x).2 := Prod.isAffineMap_snd.comp hf
+
+@[simp]
+lemma isAffineMap_prodMk_iff {f : X → Y} {g : X → Z} :
+    (IsAffineMap R fun x ↦ (f x, g x)) ↔ IsAffineMap R f ∧ IsAffineMap R g :=
+  ⟨fun hf ↦ ⟨hf.fst, hf.snd⟩, fun hf ↦ hf.1.prodMk hf.2⟩
```
Comment (eric-wieser) [inline Mathlib/Geometry/Convex/ConvexSpace/Prod.lean]: Do we want the one without `Prod.mk` too, `(IsAffineMap R f) ↔ IsAffineMap R (f . |>.1) ∧ IsAffineMap R (f . |>.2) :=`, probably without `simp`?

**Review by eric-wieser — APPROVED** [review]

File: Mathlib/Geometry/Convex/AffineMap/Defs.lean (hunk 6 above)
Comment (YaelDillies) [reply Mathlib/Geometry/Convex/AffineMap/Defs.lean:50]: Unclear, let me change now

File: Mathlib/Geometry/Convex/AffineMap/Defs.lean (hunk 7 above)
Comment (YaelDillies) [reply Mathlib/Geometry/Convex/AffineMap/Defs.lean:62]: Whoops, I forgot to update this to use `const`

File: Mathlib/Geometry/Convex/AffineMap/Module.lean (hunk 8 above)
Comment (YaelDillies) [reply Mathlib/Geometry/Convex/AffineMap/Module.lean]: No

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean [hunk 16]
```diff
@@ -573,26 +575,64 @@ lemma iConvexComb_assoc {J : Type*} (s : StdSimplex R I) (f : I → StdSimplex R
...
+  This is stated for `Fin n` so that the class does not depend on an extra universe parameter.
+  Use `Convexity.iConvexComb_comm` instead, which works for arbitrary index types. -/
+  protected iConvexComb_comm' {n : ℕ} (f : StdSimplex R (Fin n → X)) (g : StdSimplex S (Fin n)) :
+    f.iConvexComb (fun e ↦ g.iConvexComb e) = g.iConvexComb (fun i ↦ f.iConvexComb (· i))
+
+/-- `R`-convex combinations commute with `S`-convex combinations. -/
+lemma iConvexComb_comm [IsConvexCombComm R S X] (f : StdSimplex R I) (g : StdSimplex S J)
     (e : I → J → X) :
     f.iConvexComb (fun i ↦ g.iConvexComb (e i)) =
       g.iConvexComb fun j ↦ f.iConvexComb fun i ↦ e i j := by
```
Comment (eric-wieser) [inline Mathlib/Geometry/Convex/ConvexSpace/Defs.lean:599]: Is there an `sConvexComb` version for `e i j = i j`?

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean (hunk 16 above)
Comment (eric-wieser) [reply Mathlib/Geometry/Convex/ConvexSpace/Defs.lean:599]: Answer: no

**Comment by eric-wieser** [comment]
bors merge
